* Wurlitzer 200A Power Amplifier — DC and AC Validation
* Run: ngspice -b tb_power_amp.cir

.title Power Amp DC and AC Validation

.include ../models/transistors.lib
.include ../subcircuits/power_amp.cir

Vpos  vp  0   DC 22.5
Vneg  vn  0   DC -22.5

Xamp  in_sig  out  vp  vn  0  wurli_power_amp

Vin   in_sig  0   DC 0 AC 1 SIN(0 10M 440 0 0)
Rload  out  0   8

.control

set filetype = ascii

echo "=== DC OPERATING POINT ==="
op

echo ""
echo "Output (target 0V):"
print v(out)
echo "VAS out (target +0.65V):"
print v(xamp.vas_out)
echo "coll7 / VAS base (target -22V):"
print v(xamp.coll7)
echo "coll8 (target -22V):"
print v(xamp.coll8)
echo "boot node:"
print v(xamp.boot)
echo "bias_mid (target 0V):"
print v(xamp.bias_mid)
echo "drv_bot (target -0.65V):"
print v(xamp.drv_bot)
echo "emit_pair (target +0.64V):"
print v(xamp.emit_pair)
echo "fb_inv, in_ac:"
print v(xamp.fb_inv) v(xamp.in_ac)
echo "base11, base13:"
print v(xamp.base11) v(xamp.base13)
echo "nodeC, nodeD:"
print v(xamp.nodeC) v(xamp.nodeD)

echo ""
echo "Transistor Ic:"
print @q.xamp.q7[ic] @q.xamp.q8[ic] @q.xamp.q14[ic]
print @q.xamp.q9[ic] @q.xamp.q10[ic] @q.xamp.q12[ic]
print @q.xamp.q13[ic] @q.xamp.q11[ic]

echo ""
echo "Output bias (target ~5mV across 0.47 ohm):"
let v_r37 = v(xamp.nodeC) - v(out)
let v_r38 = v(out) - v(xamp.nodeD)
print v_r37 v_r38

destroy all

echo ""
echo "=== AC FREQUENCY RESPONSE ==="
ac dec 50 10 1MEG
let gain_db = db(v(out))
meas ac gain_1k FIND gain_db AT=1000
meas ac gain_10k FIND gain_db AT=10000
meas ac gain_100k FIND gain_db AT=100000
meas ac gain_1m FIND gain_db AT=1000000
* Braces are not evaluated inside a .control block; bind the target first.
let g3 = gain_1k - 3
meas ac bw_3db WHEN gain_db = g3 CROSS=LAST
destroy all

echo ""
echo "=== TRANSIENT: 10mV input ==="
tran 1u 50m 10m 1u
fourier 440 v(out)
meas tran out_pp PP v(out) from=10m to=50m
destroy all

echo ""
echo "=== TRANSIENT: 500mV input ==="
alter @vin[sin] = [ 0 0.5 440 0 0 ]
tran 1u 50m 10m 1u
fourier 440 v(out)
meas tran out_pp_500mv PP v(out) from=10m to=50m
meas tran out_max MAX v(out) from=10m to=50m
meas tran out_min MIN v(out) from=10m to=50m
destroy all

echo "Done."
quit

.endc

.end
